US03947585
To the solution of 0.33 g of 8-chloro-6-(2-chlorophenyl) 1H,4H-pyrazolo[4,3-d](2)benzazepine in 10 ml of methylene chloride, the mixture of 0.16 g of dimethylcarbamoyl chloride and 0.15 g of pyridine is added and the whole stirred for 2 hours at room temperature. The mixture is diluted with methylene chloride, washed with ice-cold aqueous sodium carbonate, dried and evaporated under reduced pressure. The residue is chromatographed on silica gel and eluted with benzene-methanol(95:5), to yield the 8-chloro-6-(2-chlorophenyl)-2-dimethylcarbamoyl-2H,4H-pyrazolo[4,3-d](2)benzazepine melting at 175°-176°.

reactant | 8-chloro-6-(2-chlorophenyl) 1H,4H-pyrazolo[4,3-d](2)benzazepine | 0.33 g | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NN3)C=C1 | C17H11Cl2N3
reactant | dimethylcarbamoyl chloride | 0.16 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | pyridine | 0.15 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 8-chloro-6-(2-chlorophenyl)-2-dimethylcarbamoyl-2H,4H-pyrazolo[4,3-d](2)benzazepine | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CN(N3)C(N(C)C)=O)C=C1 | C20H16Cl2N4O
